US06472412B1
n-Butyllithium (1.51 mL of a 1.6 M solution in hexane) is added to a solution of diisopropylamine (0.34 mL) in tetrahydrofuran (29 mL) at −10° C. under a nitrogen atmosphere. After 30 minutes the mixture is cooled to −70° C. and a solution of 3,5-dichloro-4-methylpyridine (0.39 g) in tetrahydrofuran (4 mL) is added dropwise. After 30 minutes a solution of 5,6-dimethoxy-pyridazine-3-carboxaldehyde (0.35 g) in tetrahydrofuran (15 mL) is added at −70 to −60° C. and stirring continued at this temperature for 1 hour before cooling is discontinued. After 24 hours the yellow solution is quenched by the addition of aqueous ammonium chloride and the mixture extracted with ethyl acetate. The dried extracts (MgSO4) are evaporated and the residue purified by flash chromatography (ethyl acetate as eluent on silica) to give (±)-2-(3,5-dimethylpyrid-4-yl)-1-(5,6-dimethoxypyridazin-3-yl)ethanol (0.17 g), as a white solid, m.p. 217-8° C.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 0.34 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,5-dichloro-4-methylpyridine | 0.39 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 5,6-dimethoxy-pyridazine-3-carboxaldehyde | 0.35 g | COC=1C=C(N=NC1OC)C=O | C7H8N2O3
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 29 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (±)-2-(3,5-dimethylpyrid-4-yl)-1-(5,6-dimethoxypyridazin-3-yl)ethanol | 0.17 g | CC=1C=NC=C(C1CC(O)C=1N=NC(=C(C1)OC)OC)C | C15H19N3O3
